US08492414B2
[3-(4-Benzyloxyphenyl)-[1,2,4]thiadiazol-5-yl]-methanol
To a solution of 3-(4-benzyloxyphenyl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester (0.20 g, 0.59 mmol) in EtOH (20 ml) was added sodium borohydride (0.44 g, 1.17 mmol) portion wise and the resulting reaction mixture was stirred at room temperature for 2 h. After the completion of the reaction (TLC monitoring), the reaction mass was cooled to 0° C., quenched it with 5 ml of water and concentrated under vacuum. Added 75 ml water and extracted with ethyl acetate (3×30 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was purified over silica gel (100-200 M, 30% EtOAc-Hexane) to get the desired product (0.052 g, 30%).

reactant | 3-(4-benzyloxyphenyl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester | 0.59 mmol, 0.20 g | C(C)OC(=O)C1=NC(=NS1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C18H16N2O3S
reactant | sodium borohydride | 1.17 mmol, 0.44 g | [BH4-].[Na+]
solvent | EtOH | 20 ml | CCO | C2H6O
product | [3-(4-Benzyloxyphenyl)-[1,2,4]thiadiazol-5-yl]-methanol | 0.052 g, 30% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NSC(=N1)CO | C16H14N2O2S
